US06187769B1
Synthesis of 4-(4-bromobutyl)-4,5-dihydro-3-methoxymethyl-1,4-benzoxazepin-5-one
1.0 g of 4,5-dihydro-3-methyl-1,4-benzoxazepin-5-one was dissolved in 30 ml of carbon tetrachloride, 910 mg (1.2 equivalents) of N-chlorosuccinimide was added, and the resultant mixture was agitated at 90° C. for 1 hour. This was allowed to cool, then was filtered, the filtrate was concentrated, then the resultant mixture was dissolved in 20 ml of methanol. Further, 0.86 ml (1.1 equivalents) of a methanol solution of 28% sodium methylate was added, then the resultant mixture was agitated at room temperature for 40 minutes. This was concentrated, then water was added, and extraction was performed with methylene chloride. This methylene chloride extract was washed with water and saturated saline and was dried by anhydrous magnesium sulfate, then concentrated. 368 mg of the residue was dissolved in 15 ml of dimethylformamide, then 87 mg (1.2 equivalents) of 60% sodium hydride was added under ice cooling. This was agitated for 30 minutes, then 0.64 ml (1.2 equivalents) of 1,4-dibromobutane was added, then the resultant mixture was agitated at room temperature for 3 hours.

reactant | 4,5-dihydro-3-methyl-1,4-benzoxazepin-5-one | 1.0 g | CC1=COC2=C(C(N1)=O)C=CC=C2 | C10H9NO2
reactant | N-chlorosuccinimide | 910 mg, 1.2 equivalents | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | methanol | 0.86 ml, 1.1 equivalents | CO | CH4O
reactant | sodium methylate | C[O-].[Na+]
reactant | sodium hydride | 87 mg, 1.2 equivalents | [H-].[Na+]
reactant | 1,4-dibromobutane | 0.64 ml, 1.2 equivalents | BrCCCCBr | C4H8Br2
solvent | carbon tetrachloride | 30 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-(4-bromobutyl)-4,5-dihydro-3-methoxymethyl-1,4-benzoxazepin-5-one | BrCCCCN1C(=COC2=C(C1=O)C=CC=C2)COC | C15H18BrNO3
